US06437147B1
3-(4-Chlorophenyl)-N-((4,5,6,7-tetrahydro-1H-benzimidazol-5-yl)methyl)propionamide
A solution of a mixture of 3-(4-chlorophenyl)-N-((1-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazol-5-yl)methyl)propionamide and 3-(4-chlorophenyl)-N-((3-triphenylmethyl-4,5,6,7-tetrahydro-3-triphenylmethyl-4,5,6,7-tetrahydro-3H-benzimidazol-5-yl)methyl)propionamide (0.69 g, 1.23 mmol) in acetic acid (5 ml) and water (0.6 ml) was heated to 90° C. for 1.5 hours. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (40 g), using DCM/methanol/25% aqueous ammonia (100:10:1) as eluent, to give 0.42 g of the title compound.

reactant | 3-(4-chlorophenyl)-N-((1-triphenylmethyl-4,5,6,7-tetrahydro-1H-benzimidazol-5-yl)methyl)propionamide | ClC1=CC=C(C=C1)CCC(=O)NCC1CC2=C(N(C=N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)CC1 | C36H34ClN3O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | 0.6 ml | O | H2O
product | 3-(4-Chlorophenyl)-N-((4,5,6,7-tetrahydro-1H-benzimidazol-5-yl)methyl)propionamide | 0.42 g | ClC1=CC=C(C=C1)CCC(=O)NCC1CC2=C(NC=N2)CC1 | C17H20ClN3O
